US04368325
A solution of 2-methoxyimino-3-oxo-4,4-dibromobutyric acid (syn isomer, 10 g) in methylene chloride (10 ml) was added to a solution of N,N-dimethylformamide (2.89 g) and phosphoryl chloride (6.07 g) in methylene chloride (30 ml) at -15° to 10° C., and stirred for an hour. The solution was added to a solution of 7-amino-3-hydroxycepham-4-carboxylic acid (4.8 g) and trimethylsilylacetamide (23.1 g) in methylene chloride (100 ml) at -15° to -10° C., and stirred for 2 hours. To the resultant solution was added water (40 ml) under ice-cooling and stirred for 10 minutes, and then the solvent was removed under reduced pressure therefrom. To the residue was added a saturated aqueous solution of sodium chloride (40 ml) and allowed to stand in a refrigerator overnight. The precipitates were collected by filtration, washed with a saturated aqueous solution of sodium chloride and water in turn, and dried under reduced pressure to give 7-(2-methoxyimino-3-oxo-4,4-dibromobutyramido)-3-hydroxycepham-4-carboxylic acid (syn isomer, 10.27 g).

reactant | 2-methoxyimino-3-oxo-4,4-dibromobutyric acid | 10 g | CON=C(C(=O)O)C(C(Br)Br)=O | C5H5Br2NO4
reactant | phosphoryl chloride | 6.07 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-amino-3-hydroxycepham-4-carboxylic acid | 4.8 g | NC1[C@@H]2N(C(C(CS2)O)C(=O)O)C1=O | C7H10N2O4S
reactant | trimethylsilylacetamide | 23.1 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | water | 40 ml | O | H2O
solvent | N,N-dimethylformamide | 2.89 g | CN(C=O)C | C3H7NO
product | 7-(2-methoxyimino-3-oxo-4,4-dibromobutyramido)-3-hydroxycepham-4-carboxylic acid | 10.27 g | CON=C(C(=O)NC1[C@@H]2N(C(C(CS2)O)C(=O)O)C1=O)C(C(Br)Br)=O | C12H13Br2N3O7S
